// Generated for: spectre
// Generated on: Nov  3 22:58:27 2018
// Design library name: ELEC402
// Design cell name: CELL_TB
// Design view name: schematic
simulator lang=spectre
global 0
parameters T=500p vdd=1
include "/ubc/ece/data/cmc2/kits/AMSKIT616_GPDK/tech/gpdk045_v_4_0/gpdk045/../models/spectre/gpdk045.scs" section=tt

// Library name: ELEC402
// Cell name: NMOS_PMOS_transistor
// View name: schematic
subckt NMOS_PMOS_transistor GND IN OUT VDD
    PM0 (OUT IN VDD VDD) g45p1svt w=(240n) l=45n nf=1 as=33.6f ad=33.6f \
        ps=760n pd=760n nrd=583.333m nrs=583.333m sa=140n sb=140n sd=160n \
        sca=151.92744 scb=0.10471 scc=0.01874 m=(1)
    NM0 (OUT IN GND GND) g45n1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f \
        ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
ends NMOS_PMOS_transistor
// End of subcircuit definition.

// Library name: ELEC402
// Cell name: CELL_TB
// View name: schematic
V0 (V0_PLUS 0) vsource dc=vdd type=dc
C0 (I14_OUT 0) capacitor c=2f
I14 (0 V1_PLUS I14_OUT V0_PLUS) NMOS_PMOS_transistor
V1 (V1_PLUS 0) vsource type=pulse val0=0 val1=vdd period=T rise=0.1*T \
        fall=0.1*T
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
tran tran stop=5n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
