// Generated for: spectre
// Generated on: Nov  4 23:22:48 2018
// Design library name: ELEC402
// Design cell name: NAND3TESTBENCH
// Design view name: schematic
simulator lang=spectre
global 0
parameters T=10n
include "/ubc/ece/data/cmc2/kits/AMSKIT616_GPDK/tech/gpdk045_v_4_0/gpdk045/../models/spectre/gpdk045.scs" section=tt

// Library name: ELEC402
// Cell name: NAND3
// View name: schematic
subckt NAND3 A B C GND OUTPUT VDD
    NM2 (NM1_S C GND GND) g45n1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f \
        ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
    NM1 (NM1_D B NM1_S GND) g45n1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f \
        ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
    NM0 (OUTPUT A NM1_D GND) g45n1svt w=(120n) l=45n nf=1 as=16.8f \
        ad=16.8f ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n \
        sd=160n sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
    PM2 (OUTPUT C VDD VDD) g45p1svt w=(240n) l=45n nf=1 as=33.6f ad=33.6f \
        ps=760n pd=760n nrd=583.333m nrs=583.333m sa=140n sb=140n sd=160n \
        sca=151.92744 scb=0.10471 scc=0.01874 m=(1)
    PM1 (OUTPUT B VDD VDD) g45p1svt w=(240n) l=45n nf=1 as=33.6f ad=33.6f \
        ps=760n pd=760n nrd=583.333m nrs=583.333m sa=140n sb=140n sd=160n \
        sca=151.92744 scb=0.10471 scc=0.01874 m=(1)
    PM0 (OUTPUT A VDD VDD) g45p1svt w=(240n) l=45n nf=1 as=33.6f ad=33.6f \
        ps=760n pd=760n nrd=583.333m nrs=583.333m sa=140n sb=140n sd=160n \
        sca=151.92744 scb=0.10471 scc=0.01874 m=(1)
ends NAND3
// End of subcircuit definition.

// Library name: ELEC402
// Cell name: NAND3TESTBENCH
// View name: schematic
I0 (V2_PLUS V3_PLUS V1_PLUS 0 I0_OUTPUT V0_PLUS) NAND3
V0 (V0_PLUS 0) vsource dc=1 type=dc
V3 (V3_PLUS 0) vsource type=pulse val0=0 val1=1 period=2*T rise=0.1*T \
        fall=0.1*T
V2 (V2_PLUS 0) vsource type=pulse val0=0 val1=1 period=4*T rise=0.1*T \
        fall=0.1*T
V1 (V1_PLUS 0) vsource type=pulse val0=0 val1=1 period=1*T rise=0.1*T \
        fall=0.1*T
C0 (0 I0_OUTPUT) capacitor c=10f
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
tran tran stop=500n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
