// Generated for: spectre
// Generated on: Nov  4 20:23:23 2018
// Design library name: ELEC402
// Design cell name: Question2bA3TB
// Design view name: schematic
simulator lang=spectre
global 0
parameters T=5n VDD=1 vdd=1
include "/ubc/ece/data/cmc2/kits/AMSKIT616_GPDK/tech/gpdk045_v_4_0/gpdk045/../models/spectre/gpdk045.scs" section=tt

// Library name: ELEC402
// Cell name: Question2bA3
// View name: schematic
subckt Question2bA3 A B C D GND OUTPUT VDD
    NM3 (NM3_D D GND GND) g45n1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f \
        ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
    NM2 (NM1_S C NM3_D GND) g45n1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f \
        ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
    NM1 (OUTPUT B NM1_S GND) g45n1svt w=(120n) l=45n nf=1 as=16.8f \
        ad=16.8f ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n \
        sd=160n sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
    NM0 (OUTPUT A NM1_S GND) g45n1svt w=(120n) l=45n nf=1 as=16.8f \
        ad=16.8f ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n \
        sd=160n sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
    PM3 (OUTPUT D VDD VDD) g45p1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f \
        ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
    PM2 (OUTPUT C VDD VDD) g45p1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f \
        ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
    PM1 (OUTPUT A PM0_D VDD) g45p1svt w=(120n) l=45n nf=1 as=16.8f \
        ad=16.8f ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n \
        sd=160n sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
    PM0 (PM0_D B VDD VDD) g45p1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f \
        ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
ends Question2bA3
// End of subcircuit definition.

// Library name: ELEC402
// Cell name: Question2bA3TB
// View name: schematic
I0 (V1_PLUS V2_PLUS V3_PLUS V4_PLUS 0 I0_OUTPUT I0_VDD) Question2bA3
C0 (I0_OUTPUT 0) capacitor c=10f
V0 (I0_VDD 0) vsource dc=VDD type=dc
V4 (V4_PLUS 0) vsource type=pulse val0=0 val1=vdd period=8*T rise=0.005*T \
        fall=0.005*T
V3 (V3_PLUS 0) vsource type=pulse val0=0 val1=vdd period=4*T rise=0.005*T \
        fall=0.005*T
V2 (V2_PLUS 0) vsource type=pulse val0=0 val1=vdd period=2*T rise=0.005*T \
        fall=0.005*T
V1 (V1_PLUS 0) vsource type=pulse val0=0 val1=vdd period=1*T rise=0.005*T \
        fall=0.005*T
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
tran tran stop=50n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
